US04460596
5 g of N-[(2-thienylcarbonyl)methyl]amine hydrochloride, 10 g of sodium bicarbonate and 3.9 g of benzoyl chloride are treated in the same manner as described in Preparation 1-(3). 6.4 g of N-benzoyl-N-[(2-thienylcarbonyl)methyl]amine are thereby obtained. Yield: 93.3%

reactant | N-[(2-thienylcarbonyl)methyl]amine hydrochloride | 5 g | Cl.S1C(=CC=C1)C(=O)CN
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | benzoyl chloride | 3.9 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-benzoyl-N-[(2-thienylcarbonyl)methyl]amine | 6.4 g, Yield: 93.3% | C(C1=CC=CC=C1)(=O)NCC(=O)C=1SC=CC1 | C13H11NO2S
